US09353096B2
In a 50 mL round-bottomed flask, 2-(3-chlorophenyl)morpholine hydrochloride (OChem., Lot #100301A1, 200 mg, 854 μmol) and DIEA (265 mg, 358 μl, 2.05 mmol) were combined with acetonitrile (2.5 ml) to give an off-white suspension. (S)-2-(trifluoromethyl)oxirane (287 mg, 2.56 mmol) was added. The reaction mixture was stirred at room temperature for 48 h. The reaction was complete by LCMS (MH+=310). The reaction mixture was poured into 50 mL H2O and extracted with diethyl ether/dichloromethane 10:1 (3×50 mL). The organic layers were combined, washed with saturated NaCl (1×50 mL), dried over MgSO4 and concentrated in vacuo to afford 218 mg (82% yield) of (2S)-3-(2-(3-chlorophenyl)morpholino)-1,1,1-trifluoropropan-2-ol as an amber oil. (MH+=310).

reactant | 2-(3-chlorophenyl)morpholine hydrochloride | 854 μmol, 200 mg | Cl.ClC=1C=C(C=CC1)C1CNCCO1
reactant | DIEA | 2.05 mmol, 358 μl, 265 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | acetonitrile | 2.5 ml | C(C)#N | C2H3N
reactant | (S)-2-(trifluoromethyl)oxirane | 2.56 mmol, 287 mg | FC([C@H]1OC1)(F)F | C3H3F3O
solvent | H2O | 50 mL | O | H2O
product | (2S)-3-(2-(3-chlorophenyl)morpholino)-1,1,1-trifluoropropan-2-ol | 218 mg, 82% yield | ClC=1C=C(C=CC1)C1OCCN(C1)C[C@@H](C(F)(F)F)O | C13H15ClF3NO2
